US05977152
Trans-1-(acetylthio)-4-[(1E,3E)-4-[4-(trifluoromethyl)phenyl]-1,3-butadien-1-yl]cyclohexane
In 11 ml of a mixed solvent of tetrahydrofuran-acetonitrile (8:3) were dissolved 178 mg (0.39 mmol) of 4-chlorobenzyl trans-4-[(1E,3E)-4-[4-(trifluoromethyl)phenyl]-1,3-butadienyl]cyclohexyl sulfoxide, and 168 mg (1.57 mmol) of 2,6-lutidine were added to the solution. To the mixture were added 165 mg (0.79 mmol) of trifluoroacetic anhydride with stirring at 0° C. After 3 minutes, an aqueous sodium hydrogencarbonate solution was added to the mixture, followed by extraction with ethyl acetate. The oily residue obtained by evaporation of the solvent was dissolved in 10 ml of methylene chloride, and 119 mg (1.17 mmol) of triethylamine were added to the mixture at 0° C., followed by addition of 62 mg (0.79 mmol) of acetyl chloride to the resulting mixture. After 1 hour, the reaction mixture was diluted with ethyl acetate and washed with an aqueous sodium hydrogencarbonate solution and an aqueous NaCl solution. After the mixture was dried, the crude product obtained by evaporation of the solvent was subjected to column chromatography using 5 g of silica gel and eluted with a mixed solvent of methylene chloride-hexane (1:1), followed by purification over Rover column [GrosseB, a mixed solvent of ethyl acetate-hexane (1:19)] to obtain 98 mg (yield: 70%) of the title compound having a melting point of 113 to 115° C.

reactant | 4-chlorobenzyl trans-4-[(1E,3E)-4-[4-(trifluoromethyl)phenyl]-1,3-butadienyl]cyclohexyl sulfoxide | 0.39 mmol, 178 mg | FC(C1=CC=C(C=C1)/C=C/C=C/[C@@H]1CC[C@H](CC1)S(=O)CC1=CC=C(C=C1)Cl)(F)F | C24H24ClF3OS
reactant | 2,6-lutidine | 1.57 mmol, 168 mg | N1=C(C=CC=C1C)C | C7H9N
reactant | trifluoroacetic anhydride | 0.79 mmol, 165 mg | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
reactant | triethylamine | 1.17 mmol, 119 mg | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 0.79 mmol, 62 mg | C(C)(=O)Cl | C2H3ClO
solvent | tetrahydrofuran-acetonitrile | O1C(CCC1)CC#N | C6H9NO
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | Trans-1-(acetylthio)-4-[(1E,3E)-4-[4-(trifluoromethyl)phenyl]-1,3-butadien-1-yl]cyclohexane | 98 mg, yield: 70% | C(C)(=O)S[C@@H]1CC[C@H](CC1)\C=C\C=C\C1=CC=C(C=C1)C(F)(F)F | C19H21F3OS
